2193-12-29 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2193-12-29**] 01:19 AM
 FEVER - 101.9
F - [**2193-12-29**] 04:00 AM
   -repleted calcium, mag, potassium
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-12-29**] 02:15 AM
   Ampicillin - [**2193-12-29**] 03:53 AM
   Infusions:
   Phenylephrine - 1.7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   1000 mL NS 3. Ampicillin 4. Calcium Gluconate 5. CeftriaXONE 6.
   CeftriaXONE 7. Efavirenz
   8. Emtricitabine-Tenofovir (Truvada) 9. Fluconazole 10. FoLIC Acid 11.
   Heparin 12. Hydrocortisone Na Succ.
   13. Ibuprofen 14. Levothyroxine Sodium 15. Magnesium Sulfate 16.
   Norepinephrine 17. Omeprazole 18. Ondansetron
   19. Oseltamivir 20. Phenylephrine 21. Potassium Chloride 22.
   Polyethylene Glycol 23. PredniSONE
   24. Senna 25. Sodium Chloride 0.9% Flush 26. Sulfameth/Trimethoprim SS
   27. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: feels breathing is fine.  No N/V or abd pain. No CP.
   C/o itching over eyes, particularly left
   Flowsheet Data as of  [**2193-12-29**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.3
C (99.2
   HR: 93 (86 - 122) bpm
   BP: 110/58(69) {75/43(52) - 133/63(76)} mmHg
   RR: 27 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (9 - 34)mmHg
   Total In:
                                                                  6,034 mL
   PO:
   TF:
   IVF:
                                                                  1,534 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    890 mL
   Urine:
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,144 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   Gen: NAD, edematous face particularly eyelides L>R but overall improved
   vs yesterday
   Lymph: bulky submadibular and cervical LAD
   CV: rrr nl s1s2 no mrg
   Pulm: cta b/l from ant
   Abd: +BS, soft ntnd
   Ext: edematous hands/arms b/l, warm, NT
   Labs / Radiology
   197 K/uL
   9.4 g/dL
   144 mg/dL
   0.8 mg/dL
   18 mEq/L
   2.9 mEq/L
   8 mg/dL
   114 mEq/L
   140 mEq/L
   28.7 %
   11.8 K/uL
        [image002.jpg]
                            [**2193-12-29**]  02:05 AM
   WBC
   11.8
   Hct
   28.7
   Plt
   197
   Cr
   0.8
   TropT
   <0.01
   Glucose
   144
   Other labs: PT / PTT / INR:12.7/41.6/1.1, CK / CKMB /
   Troponin-T:81/2/<0.01, ALT / AST:32/57, Alk Phos / T Bili:132/1.2,
   Differential-Neuts:91.0 %, Band:8.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:0.0
   %, LDH:293 IU/L, Ca++:6.5 mg/dL, Mg++:1.1 mg/dL, PO4:2.1 mg/dL
   [**12-29**] flu pending
   [**12-28**] CSF and blood cryptococcal ag negative
   [**12-28**] csf stain neg, ctx pending
   [**12-28**] HBV VL pending
   [**12-28**] malaria Ag negative
   [**12-28**] blood pending
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 MENINGITIS, BACTERIAL
   49 yo female with HIV, adult onset Still
s disease, and hypothyroidism.
   Presents with fevers, neck pain, and facial pain. Recently returned
   from [**Country 3310**].
   #. Fever / lymphadenopathy:
   Concerning that patient has diagnosis of HIV (though CD4 was 288 on
   [**2193-10-14**] and VL was undetectable) and additionally has
   immunosuppression related to chronic prednisone, methotrexate, and
   Remicade. UA was slightly positive in the ED and may contribute to
   fevers, though an underwhelming explanation of fevers up to 103 and
   facial lymphadenopathy. Patient reported to have dental infections in
   the past; however, no current evidence to suggest a dental etiology.
   Patient has a known diagnosis of adult Still's disease and has
   experienced flares in the past during which her course has been marked
   by submental lymphadenopathy, fever, and hypotension. Meningitis seems
   unlikely to cause this degree of lymphadenopathy; further, patient's
   loss of supple neck is easily confused with an exam limited by pain
   from lymphadenopathy. Distant possibility is hemophagocytic
   lymphohistiocytosis, which would be hard to distinguish clinically from
   adult Still's disease flare given that both can present with fever,
   lymphadenopathy, increased ferritin level. Going against HLH is the
   patient's prior diagnosis of adult Still's along with abscence of
   two-line cytopenia associated with HLH.  Cryptococcal and malaria
   negative.
   - Continue empiric antibiotic coverage with Vancomycin, Ceftriaxone,
   Ampicillin, at increased dosing for meningitis pending final CSF
   results.  Also add Flagyll today for anaerobic coverage.
   - Follow-up pending CSF, blood cultures, urine culture, cryptococcal
   serologies, HBV viral load
   - Send influenza DFA and treat empirically with oseltamivir pending
   that result
   - Appreciate ID recs
   - Consult rheumatology for assistance in management of adult Still's
   flare
   -check EBV, CMV PCR
   -confirm with radiology that could view teeth or ask if they want
   panorex.
   - Trend ferritin
   #. Hypotension:
   Possible that this is multifactorial from hypovolemia and
   distributive/septic physiology. Patient has presented to hospital in
   past with hypotension without definitive cause. She improved on broad
   spectrum antibiotics as well as stress dose steroids at that time.
   - Has had good UOP, and now off pressors.  Bolus IVF to keep off if
   possible.
   - Patient being broadly treated with Vanc, ceftriaxone, ampicillin at
   this time, adding flagyll
   - Hydrocortisone 50 mg IV Q6H for stress dose steroids in setting of
   chronic iatrogenic adrenal axis suppression
   #. HIV: Good outpatient control with most recent CD4 of 288 and
   undetectable VL.
   - Continue Efavirenz-Emtricitabin-Tenofov [ATRIPLA] 600 mg-200 mg-300
   mg DAILY
   - Continue prophylaxis with Bactrim SS daily
   #. Still's disease: Possible this presentation is a flare as above.
   - Appreciate Rheumatology input
   - Hold on Remicade, methotrexate at this time.
   ICU Care
   Nutrition: Regular, check pm lytes
   Lines:
   18 Gauge - [**2193-12-29**] 01:17 AM
   Multi Lumen - [**2193-12-29**] 01:19 AM
   Prophylaxis:
   -DVT ppx with heparin subcut
   -PPI
   -Bowel regimen with miralax and senna PRN
   -Pain management with ibuprofen
   Communication:  [**Name (NI) 12241**] [**Name (NI) 12242**] (son) [**Telephone/Fax (1) 12243**]
   Code status: Full code
   Disposition: ICU for now given throat edema and pressor requirement
   this am

2193-12-30 07:33:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: Fever, lymphadenopathy
   24 Hour Events:
   - Final CT Head/Neck showed significant swelling of SQ fat of face, and
   sublingual space representing cellulitis with possible Ludwig's,
   swelling of hypopharynx, possible evolving abscess, and cervical LAD
   increased from [**2192-11-10**].
   - Grew GPC in clusters in blood from ED (1/4 bottles)
   - Flu swab negative, precautions dc'ed
   - ID recs: Continue Abx, when CSF negative, can cut back to
   ceftriaxone, add Flagyl (which we had already done), check CMV and EBV
   viral load, can dc flu precautions
   - ENT recs: Definite laryngeal edema but no active airway compromise,
   will rescope tomorrow, rescan [**2193-12-30**] for evolution of abscess (48
   hours after last one) - CT with contrast.  Full note in OMR
   - Radiology thought CT neck better than dental films to look for tooth
   abscess
   - Rheum recs: Likely is Still's flare but can't rule it out, consider
   echo because of GPC in clusters, consider lupus-like picture, [**Doctor First Name **],
   dsDNA, consider LN biopsy if doesn't improve, would start solumedrol IV
   20mg TID.  Page [**Hospital1 609**] pager [**Numeric Identifier 12269**] with questions ([**Doctor Last Name 3314**])
   - Gave hydroxyzine for itching
   - Wasn't eating very much and slightly tachycardic with BPs 90's/40's
   so gave 1L NS bolus.  Then got tachycardic to the 110's and complaining
   of thirst with fever of 100.7, blood cultures sent and given another
   liter of NS, then a liter of LR.
 BLOOD CULTURED - At [**2193-12-29**] 10:15 AM
   from L fermerol CVL
 STOOL CULTURE - At [**2193-12-29**] 11:00 AM
 URINE CULTURE - At [**2193-12-30**] 12:00 AM
 BLOOD CULTURED - At [**2193-12-30**] 02:33 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-12-29**] 08:30 PM
   Ceftriaxone - [**2193-12-30**] 02:00 AM
   Ampicillin - [**2193-12-30**] 04:00 AM
   Metronidazole - [**2193-12-30**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-29**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-30**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.6
   HR: 104 (69 - 117) bpm
   BP: 110/54(65) {78/27(38) - 125/65(79)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 18 (18 - 18)mmHg
   Total In:
                                                                  8,940 mL
                                                                  3,113 mL
   PO:
                                                                    810 mL
                                                                    690 mL
   TF:
   IVF:
                                                                  3,630 mL
                                                                  2,423 mL
   Blood products:
   Total out:
                                                                  2,725 mL
                                                                    905 mL
   Urine:
                                                                  2,115 mL
                                                                    905 mL
   NG:
   Stool:
                                                                    260 mL
   Drains:
   Balance:
                                                                  6,215 mL
                                                                  2,208 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   Gen: NAD, edematous face particularly eyelids L>R but improved from
   yesterday
   Lymph: bulky submadibular and cervical LAD, less tender to palpation
   since yesterday
   CV: rrr nl s1s2 no mrg
   Pulm: crackles at both bases
   Abd: +BS, soft ntnd
   Ext: edematous hands/arms, warm, not tender
   Labs / Radiology
   190 K/uL
   9.3 g/dL
   158 mg/dL
   0.8 mg/dL
   17 mEq/L
   3.8 mEq/L
   10 mg/dL
   119 mEq/L
   143 mEq/L
   28.6 %
   17.5 K/uL
        [image002.jpg]
                            [**2193-12-29**]  02:05 AM
                            [**2193-12-29**]  11:53 AM
                            [**2193-12-30**]  02:34 AM
   WBC
   11.8
   17.5
   Hct
   28.7
   28.6
   Plt
   197
   190
   Cr
   0.8
   0.8
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   144
   161
   158
   Other labs: PT / PTT / INR:14.9/38.3/1.3, CK / CKMB /
   Troponin-T:122/2/<0.01, ALT / AST:32/57, Alk Phos / T Bili:132/1.2,
   Differential-Neuts:96.8 %, Band:8.0 %, Lymph:1.7 %, Mono:0.8 %, Eos:0.6
   %, Fibrinogen:478 mg/dL, LDH:293 IU/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.6 mg/dL
   ESR 10
   CRP 116.5
   Ferritin [**Numeric Identifier 12270**] (from [**Numeric Identifier **] yesterday)
   [**Doctor First Name **] pending
   dsDNA pending
   [**12-29**] CMV viral load, EBV PCR pending
   [**12-29**] and [**12-30**] urine culture pending
   [**12-29**] and [**12-30**] blood culture pending
   [**12-28**] CSF and Blood cryptococcal Ag negative
   [**12-28**] Csf stain neg, ctx pending
   [**12-28**] HBV VL pending
   [**12-28**] malaria Ag negative
   [**12-28**] Blood cx: GPC in pairs and clusters in [**2-13**] bottles
[**2193-12-29**] 12:32 pm STOOL     CONSISTENCY: WATERY      Source: Stool.
   FECAL CULTURE (Pending):
   CAMPYLOBACTER CULTURE (Pending):
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2193-12-29**]):
      Feces negative for C.difficile toxin A & B by EIA.
           (Reference Range-Negative).
                                    Value
                                    Units
                               Reference Range
   [**2193-12-30**]
                                                                   12:20AM
   Report Comment:
   Source: Catheter
   GENERAL URINE INFORMATION
                        Urine Color
                                                                    Yellow
                        Urine Appearance
                                                                      Hazy
                        Specific Gravity
                                                                     1.016
                        1.001 - 1.035
   DIPSTICK URINALYSIS
                        Blood
                                                                       NEG
                        Nitrite
                                                                       NEG
                        Protein
                                                                        30
                                    mg/dL
                        Glucose
                                                                       NEG
                                    mg/dL
                        Ketone
                                                                       NEG
                                    mg/dL
                        Bilirubin
                                                                       NEG
                                    mg/dL
                        Urobilinogen
                                                                       NEG
                                    mg/dL
                                   0.2 - 1
   pH
                                                                       6.5
                                    units
                                    5 - 8
   Leukocytes
                                                                       NEG
                        MICROSCOPIC URINE EXAMINATION
                        RBC
                                                                         2
                                    #/hpf
                                    0 - 2
   WBC
                                                                         3
                                    #/hpf
                                    0 - 5
   Bacteria
                                                                       FEW
                        Yeast
                                                                      NONE
                        Epithelial Cells
                                                                        <1
                                    #/hpf
                        OTHER URINE FINDINGS
                        Urine Mucous
                                                                      RARE
   Assessment and Plan
   49 yo female with HIV, adult onset Still
s disease, and hypothyroidism
   who presented with fevers, neck pain, facial pain and hypotension after
   a recent trip to [**Country 3310**]
   #. Fever / lymphadenopathy: Broad differential is infectious vs
   rheumatologic.  Concern for infection given chronic immunosuppression
   due to treatment for Still
s disease and diagnosis of HIV (though CD4
   was 288 on [**2193-10-14**] and VL was undetectable).  Also now with positive
   blood cultures that worsen worry for infection.  Feel that she also
   likely has Still
s flare on top of an infection given past
   presentations..
   - Cryptococcal and malaria negative.
   - Continue empiric antibiotic coverage with Vancomycin, Ceftriaxone,
   Ampicillin, and Flagyl (for anaerobic coverage)
 can likely stop
   ampicillin if CSF cultures negative x 48 hours as less likely
   meningitis
   - FU blood and urine cultures
   - Follow-up pending CSF, blood cultures, HBV viral load
   - Negative for flu
   - Appreciate ID recs
   - Appreciate rheum recs
   - FU EBV, CMV PCR
   - Trend ferritin, now increasing
   - Consider lymph node biopsy if doesn
t improve
   - Consider TTE to look for endocarditis if Staph in cultures
   #. Hypotension: Possible that this is multifactorial from hypovolemia
   and distributive/septic physiology. Patient has presented to hospital
   in past with hypotension without definitive cause. She improved on
   broad spectrum antibiotics as well as stress dose steroids at that
   time.  Requiring fluid boluses both for tachycardia and low urine
   output, although feel that the tachycardia may have been related to
   fevers.
   - Monitor UOP.  Bolus IVF to keep off pressors if possible.
   - Continue antibiotics as above
   - Have switched to solumedrol 20mg IV TID per rheum recs in setting of
   chronic iatrogenic adrenal axis suppression
   #. Throat edema/lymphadenopahty: ENT following who said she has
   significant swelling but no difficulty breathing or maintaining O2
   sats.
   - Appreciate ENT recs
   - Will repeat CT scan today at 6pm vs tomorrow morning to assess for
   progression/resolution
   - ENT will rescope her today to assess for interval change
   #. HIV: Good outpatient control with most recent CD4 of 288 and
   undetectable VL.
   - Continue Efavirenz-Emtricitabin-Tenofov [ATRIPLA] 600 mg-200 mg-300
   mg DAILY
   - Continue prophylaxis with Bactrim SS daily
   #. Still's disease: Possible this presentation is a flare as above.
   CRP markedly elevated
   - Appreciate Rheumatology input
   - Hold on Remicade, methotrexate at this time
   - FU [**Doctor First Name **], dsDNA
   - Continue solumedrol
   ICU Care
   Nutrition: Regular, check pm lytes
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-12-29**] 01:17 AM
   Multi Lumen - [**2193-12-29**] 01:19 AM (femoral line)
 needs multiple lumen
   access at this time for antibiotics but not able to get PICC due to
   recent fevers, will attempt peripherals and dc femoral line as soon as
   possible, likely tomorrow
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:
   Comments: Pain with ibuprofen, Tylenol and oxycodone, bowel regimen
   with miralax and senna
   Communication:  Comments: [**Name (NI) 12241**] [**Name (NI) 12242**] (son) [**Telephone/Fax (1) 12243**]
   Code status: Full code
   Disposition: ICU for now given throat edema but will touch base with
   ENT about transfer to the floor

2193-12-30 10:09:00 Physician Attending Progress Note
Chief Complaint: sepsis, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 49yo F with PMH HIV, recent CD5 288, adult-onset Stills disease
   and hypothyroidism who presents with fever, neck pain, facial pain and
   hypotension after recent trip to [**Country 3310**].
   24 Hour Events:
 BLOOD CULTURED - At [**2193-12-29**] 10:15 AM
   from L fermerol CVL
 STOOL CULTURE - At [**2193-12-29**] 11:00 AM
 URINE CULTURE - At [**2193-12-30**] 12:00 AM
 BLOOD CULTURED - At [**2193-12-30**] 02:33 AM
   ENT consulted--> laryngeal edema, no active airway compromise,
   recommend
        repeat imaging
   ID input appreciated
   rheum input helpful, concern that presentation may be Stills flair
   tachycardic overnight, febrile, received 3 liters NS + LR, pan cx'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-12-30**] 02:00 AM
   Metronidazole - [**2193-12-30**] 06:00 AM
   Vancomycin - [**2193-12-30**] 07:46 AM
   Ampicillin - [**2193-12-30**] 07:46 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-30**] 07:47 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-30**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.6
C (97.9
   HR: 92 (92 - 117) bpm
   BP: 101/48(61) {78/27(38) - 111/63(71)} mmHg
   RR: 19 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 21 (18 - 21)mmHg
   Total In:
                                                                  8,940 mL
                                                                  3,496 mL
   PO:
                                                                    810 mL
                                                                    750 mL
   TF:
   IVF:
                                                                  3,630 mL
                                                                  2,746 mL
   Blood products:
   Total out:
                                                                  2,725 mL
                                                                  1,085 mL
   Urine:
                                                                  2,115 mL
                                                                  1,085 mL
   NG:
   Stool:
                                                                    260 mL
   Drains:
   Balance:
                                                                  6,215 mL
                                                                  2,411 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress, alert and appropriate
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, submental and neck
   swelling, mild tender
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: 2+ distal pulses
   Respiratory / Chest: (Breath Sounds: Clear :, scant b rales
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Rash: facial, stable
   Labs / Radiology
   9.3 g/dL
   190 K/uL
   158 mg/dL
   0.8 mg/dL
   17 mEq/L
   3.8 mEq/L
   10 mg/dL
   119 mEq/L
   143 mEq/L
   28.6 %
   17.5 K/uL
        [image002.jpg]
                            [**2193-12-29**]  02:05 AM
                            [**2193-12-29**]  11:53 AM
                            [**2193-12-30**]  02:34 AM
   WBC
   11.8
   17.5
   Hct
   28.7
   28.6
   Plt
   197
   190
   Cr
   0.8
   0.8
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   144
   161
   158
   Other labs: PT / PTT / INR:14.9/38.3/1.3, CK / CKMB /
   Troponin-T:122/2/<0.01, ALT / AST:32/57, Alk Phos / T Bili:132/1.2,
   Differential-Neuts:96.8 %, Band:8.0 %, Lymph:1.7 %, Mono:0.8 %, Eos:0.6
   %, Fibrinogen:478 mg/dL, LDH:293 IU/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.6 mg/dL
   Fluid analysis / Other labs: esr 10, crp 106
   ferritin doubled
   Microbiology: viral load cmv, ebv pending,
   cxs pending
   csf gs neg, cx pending
   malarial cx ngtd
   c diff neg
   Assessment and Plan
   49yo F with PMH HIV, recent CD5 288, adult-onset Stills disease and
   hypothyroidism who presents with fever, neck pain, facial pain and
   hypotension after recent trip to [**Country 3310**].
   # fever/ LAD /leukocytosis: broad ddx discussed. Includes rheumatologic
   disease/ Stills, less likely lymphoma given focality and prior episode,
   high concern for infection in light of  gpc bacteremia, oral
   infection/cellulitis/abscess
   --broad empiric antibx  ( vanc/ceftriaxone/ampicillin/flagyl)
   --check TTE to eval cardiac fx and r/o sbe
   --f/u pending cx results and taper antbx accordingly
   --ID, rheum, and ent input appreciated
   --Plan for repeat ct neck to follow soft tissue process--? Indication
   for FNA
   # Hypotension: ? sepsis versus distributive shock from Stills v.
   hypovolemia
   --normotensive now, off pressors
   --Urine outpt improved
   --Continue stress steroids
   # tachyardia
improved with fluids and resolution of fever
   #Stills Disease
   - presentation may all represent flare of  rheumatologic disease, on
   steroids
   - trend ferritin, rheum labs pending, rheum following
   #  HIV
   - continue antiretrovirals and home prophylactic meds
   # Diarrhea
possibly from antibx, rule out infectious, c diff neg
   ICU Care
   Nutrition:  tolerating POs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2193-12-29**] 01:17 AM
   Multi Lumen - [**2193-12-29**] 01:19 AM
cont groid line, with plan for picc
   once AF X 24 hrs
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU possible call out later today or tomorrow
   Total time spent: 40 minutes
   Patient is critically ill

2193-12-31 07:07:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: fever, LAD
   24 Hour Events:
   -rheum recs esr/crp/ferritin in [**2-12**] days
   -ID: stop amp, decrease CTX
   -UOP good
   -[**Doctor First Name **] pos, ds DNA pend
   ENT: repeat CT scan in AM (ordered)
   TTE pending
   BCx grew coag neg staph, [**Last Name (un) 270**] pending
   ? need for FNA on PM rounds, she is at risk for lymphoprolif disorder.
   Can discuss with ENT after repeat CT scan.
   -will need picc once afebrile x 24 hours so we can pull groin line
   - refused heparin subq so put on pneumoboots
 TRANSTHORACIC ECHO - At [**2193-12-30**] 02:13 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2193-12-30**] 07:46 AM
   Vancomycin - [**2193-12-30**] 10:00 PM
   Ceftriaxone - [**2193-12-31**] 02:00 AM
   Metronidazole - [**2193-12-31**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-30**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-31**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 93 (75 - 102) bpm
   BP: 114/52(64) {90/48(61) - 140/109(112)} mmHg
   RR: 17 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (11 - 21)mmHg
   Total In:
                                                                  5,070 mL
                                                                    220 mL
   PO:
                                                                  1,530 mL
   TF:
   IVF:
                                                                  3,540 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  4,190 mL
                                                                  1,800 mL
   Urine:
                                                                  4,190 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    880 mL
                                                                 -1,581 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Gen: NAD, edematous face particularly eyelids L>R but improved from
   yesterday
   Lymph: bulky submadibular and cervical LAD, less tender to palpation
   since yesterday
   CV: rrr nl s1s2 no mrg
   Pulm: crackles at both bases
   Abd: +BS, soft ntnd
   Ext: edematous hands/arms, warm, not tender
   Labs / Radiology
   194 K/uL
   10.1 g/dL
   173 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.2 mEq/L
   9 mg/dL
   111 mEq/L
   137 mEq/L
   31.8 %
   11.6 K/uL
        [image002.jpg]
                            [**2193-12-29**]  02:05 AM
                            [**2193-12-29**]  11:53 AM
                            [**2193-12-30**]  02:34 AM
                            [**2193-12-31**]  05:47 AM
   WBC
   11.8
   17.5
   11.6
   Hct
   28.7
   28.6
   31.8
   Plt
   197
   190
   194
   Cr
   0.8
   0.8
   0.8
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   144
   161
   158
   173
   Other labs: PT / PTT / INR:12.9/30.9/1.1, CK / CKMB /
   Troponin-T:122/2/<0.01, ALT / AST:32/57, Alk Phos / T Bili:132/1.2,
   Differential-Neuts:92.3 %, Band:8.0 %, Lymph:5.2 %, Mono:0.9 %, Eos:1.2
   %, Fibrinogen:478 mg/dL, LDH:293 IU/L, Ca++:7.3 mg/dL, Mg++:1.2 mg/dL,
   PO4:2.1 mg/dL
   Ferritin: greater than [**2184**]
   [**Doctor First Name **] positive, titer pending
   dsDNA pending
   [**12-29**] CMV viral load, EBV PCR pending
   [**12-29**] urine cx c/w contamination, [**12-30**] urine culture pending
   [**12-29**] and [**12-30**] blood culture pending
   [**12-28**] Csf stain neg, ctx pending
   [**12-28**] HBV VL pending
   [**12-28**] Blood cx: GPC in pairs and clusters in [**2-13**] bottles
 coagulase
   negative staph
   TTE read pending, no other imaging in OMR
   Assessment and Plan
   49 yo female with HIV, adult onset Still
s disease, and hypothyroidism
   who presented with fevers, neck pain, facial pain and hypotension after
   a recent trip to [**Country 3310**]
   #. Fever / lymphadenopathy: Broad differential is infectious vs
   rheumatologic.  Concern for infection given chronic immunosuppression
   due to treatment for Still
s disease and diagnosis of HIV (though CD4
   was 288 on [**2193-10-14**] and VL was undetectable).  Also now with positive
   blood cultures that worsen worry for infection.  Feel that she also
   likely has Still
s flare on top of an infection given past
   presentations..
   - Cryptococcal and malaria negative.
   - Continue empiric antibiotic coverage with Vancomycin, Ceftriaxone,
   and Flagyl (for anaerobic coverage), have decreased dose of ceftriaxone
   per ID recs
   - FU blood and urine cultures
   - Follow-up pending CSF, blood cultures, HBV viral load
   - Negative for flu
   - Appreciate ID recs
   - Appreciate rheum recs
   - FU EBV, CMV PCR
   - Trend ferritin daily
   - Consider lymph node biopsy if doesn
t improve
   #. Hypotension: Possible that this is multifactorial from hypovolemia
   and distributive/septic physiology. Patient has presented to hospital
   in past with hypotension without definitive cause. She improved on
   broad spectrum antibiotics as well as stress dose steroids at that
   time.  Requiring fluid boluses both for tachycardia and low urine
   output, although feel that the tachycardia may have been related to
   fevers.
   - Monitor UOP.  Bolus IVF as needed
   - Continue antibiotics as above
   - Have switched to solumedrol 20mg IV TID per rheum recs in setting of
   chronic iatrogenic adrenal axis suppression
   #. Throat edema/lymphadenopahty: ENT following who said she has
   significant swelling but no difficulty breathing or maintaining O2
   sats.
   - Appreciate ENT recs
   - Will repeat CT scan today to assess for progression/resolution
   #. HIV: Good outpatient control with most recent CD4 of 288 and
   undetectable VL.
   - Continue Efavirenz-Emtricitabin-Tenofov [ATRIPLA] 600 mg-200 mg-300
   mg DAILY
   - Continue prophylaxis with Bactrim SS daily
   #. Still's disease: Possible this presentation is a flare as above.
   CRP markedly elevated
   - Appreciate Rheumatology input
   - Hold on Remicade, methotrexate at this time
   - FU [**Doctor First Name **], dsDNA
   - Continue solumedrol
   ICU Care
   Nutrition: Regular
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-12-29**] 01:17 AM
   Multi Lumen - [**2193-12-29**] 01:19 AM (femoral line)
 needs multiple lumen
   access at this time for antibiotics but not able to get PICC due to
   recent fevers, will attempt peripherals and dc femoral line as soon as
   possible
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:
   Comments: Pain with ibuprofen, Tylenol and oxycodone, bowel regimen
   with miralax and senna
   Communication:  Comments: [**Name (NI) 12241**] [**Name (NI) 12242**] (son) [**Telephone/Fax (1) 12243**]
   Code status: Full code
   Disposition: Can likely call out today

2193-12-31 12:37:00 Physician Attending Progress Note
Chief Complaint: hypotension, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  49yo F with PMH HIV, recent CD5 288, adult-onset Stills disease
   and hypothyroidism who presents with fever, neck pain, facial pain and
   hypotension after recent trip to [**Country 3310**].
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2193-12-30**] 02:13 PM
   Remains HD stable off pressors
   ampicillin d/c'd, ctx dose adjusted
   picc line placed this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2193-12-30**] 07:46 AM
   Ceftriaxone - [**2193-12-31**] 02:00 AM
   Metronidazole - [**2193-12-31**] 06:00 AM
   Vancomycin - [**2193-12-31**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-31**] 08:31 AM
   Omeprazole (Prilosec) - [**2193-12-31**] 08:31 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-31**] 12:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96.1
   HR: 96 (75 - 115) bpm
   BP: 138/85(97) {90/51(64) - 152/109(112)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (11 - 13)mmHg
   Total In:
                                                                  5,070 mL
                                                                    796 mL
   PO:
                                                                  1,530 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,540 mL
                                                                    556 mL
   Blood products:
   Total out:
                                                                  4,190 mL
                                                                  2,800 mL
   Urine:
                                                                  4,190 mL
                                                                  2,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    880 mL
                                                                 -2,004 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: slight improvement in peri-orbital edema
   Lymphatic: Cervical WNL, slight improvement in submental edema and r
   neck swelling
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , scant Crackles at bases
   : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: mild ue edema, stable
   Skin:  warm
   Neurologic: Attentive
   Labs / Radiology
   10.1 g/dL
   194 K/uL
   173 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.2 mEq/L
   9 mg/dL
   111 mEq/L
   137 mEq/L
   31.8 %
   11.6 K/uL
        [image002.jpg]
                            [**2193-12-29**]  02:05 AM
                            [**2193-12-29**]  11:53 AM
                            [**2193-12-30**]  02:34 AM
                            [**2193-12-31**]  05:47 AM
   WBC
   11.8
   17.5
   11.6
   Hct
   28.7
   28.6
   31.8
   Plt
   197
   190
   194
   Cr
   0.8
   0.8
   0.8
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   144
   161
   158
   173
   Other labs: PT / PTT / INR:12.9/30.9/1.1, CK / CKMB /
   Troponin-T:122/2/<0.01, ALT / AST:32/57, Alk Phos / T Bili:132/1.2,
   Differential-Neuts:92.3 %, Band:8.0 %, Lymph:5.2 %, Mono:0.9 %, Eos:1.2
   %, Fibrinogen:478 mg/dL, LDH:293 IU/L, Ca++:7.3 mg/dL, Mg++:1.2 mg/dL,
   PO4:2.1 mg/dL
   Fluid analysis / Other labs: ferritin > [**2184**]
   Imaging: TTE--ef > 55%, LAD, mild MR, no veggies seen
   Microbiology: cmv, ebv pcr pending
   csf ngtd
   bl cx--> CNS
   Assessment and Plan
   49F PMH HIV, recent CD5 288, adult-onset Stills disease and
   hypothyroidism p/w fever, neck pain, facial pain and hypotension after
   recent trip to [**Country 3310**].  Remains unclear whether presentation is c/w
   Stills flare vs sepsis with infectious process. Clinically improved
   with stable HD off pressors.
   Primary issues include:
   # Fever/ LAD/ leukocytosis: broad ddx discussed, ?  rheumatologic
   disease/ Stills, lymphoma, infection (oral
   infection/cellulitis/abscess)
   -- Continue empiric antibx  ( tailored to vanc/ceftriaxone /flagyl)
   -- ID, rheum, and ent input appreciated
   -- Repeat ct neck to follow soft tissue process
if LAD unchanged will
   d/w ENT ? indication for FNA, though recurrence makes this less likely
   to be lymphoma
   --f/u pending serologies
   # Stills Disease
   - presentation may all represent flare of  rheumatologic disease,
   --continue steroids
   - trend ferritin, rheum labs pending, rheum following
   #  HIV
   -continue antiretrovirals and home prophylactic meds
   Remainder as per resident note
   ICU Care
   Nutrition:  PO diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-12-29**] 01:17 AM
   Multi Lumen - [**2193-12-29**] 01:19 AM
will d/c groin line once picc
   placement confirmed
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Stable for transfer to floor
   Total time spent: 40 minutes